US06720338B2
4-tert-butyl-1-cyclohexen-1-yl trifluoromethanesulfonate
A −78° C. solution of 4-tert-butylcyclohexanone (1.54 g, 10 mmol) and N-phenyl(trifluoromethanesulfonamide) (3.75 g, 10.5 mmol) in THF (20 mmol) was treated with 1M NaHMDS in THF (11 mL), warmed to room temperature, filtered through a pad of silica gel (10 g) with diethyl ether (5 mL), and concentrated. The concentrate was purified by flash column chromatography on silica gel with 1% ethyl acetate/hexanes to provide the desired product.

reactant | 4-tert-butylcyclohexanone | 10 mmol, 1.54 g | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | N-phenyl(trifluoromethanesulfonamide) | 10.5 mmol, 3.75 g | C1(=CC=CC=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
reactant | NaHMDS | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mmol | C1CCOC1 | C4H8O
product | 4-tert-butyl-1-cyclohexen-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCC(CC1)C(C)(C)C)(F)F | C11H17F3O3S
